US08648038B2
Ethyl 3-{4-[2-(2-isopropyl-5-methylphenoxy)propionylamino]phenyl}-3-methoxypropionate
A solution of 150 mg (0.67 mmol) of 2-(2-isopropyl-5-methylphenoxy)propionic acid in 1 ml of thionyl chloride was boiled under reflux under argon for 30 minutes. The reaction mixture was concentrated, admixed with 2 ml of toluene and concentrated again. The residue was dissolved in 3 ml of acetonitrile under argon, admixed with 940 μl (0.67 mmol) of triethylamine and a solution of 150 mg (0.67 mmol) of ethyl 3-(4-aminophenyl)-3-methoxypropionate and stirred at room temperature for 30 minutes. The reaction mixture was diluted with water, adjusted to pH=6-7 with 1 N hydrochloric acid and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated under high vacuum. This gave 287 mg of ethyl 3-{4-[2-(2-isopropyl-5-methylphenoxy)propionylamino]phenyl}-3-methoxypropionate.

reactant | 2-(2-isopropyl-5-methylphenoxy)propionic acid | 0.67 mmol, 150 mg | C(C)(C)C1=C(OC(C(=O)O)C)C=C(C=C1)C | C13H18O3
reactant | triethylamine | 0.67 mmol, 940 μl | C(C)N(CC)CC | C6H15N
reactant | ethyl 3-(4-aminophenyl)-3-methoxypropionate | 0.67 mmol, 150 mg | NC1=CC=C(C=C1)C(CC(=O)OCC)OC | C12H17NO3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | Ethyl 3-{4-[2-(2-isopropyl-5-methylphenoxy)propionylamino]phenyl}-3-methoxypropionate | C(C)(C)C1=C(OC(C(=O)NC2=CC=C(C=C2)C(CC(=O)OCC)OC)C)C=C(C=C1)C | C25H33NO5
